US06340751B1
Preparation of (R)-2-[(3S,4S)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionic acid
To a solution of 3-{(2R)-2-[(3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl)propionyl}-(3aS-cis)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]oxazol-2-one (308 mg) dissolved in a methanol-water solvent mixture (2:1, 3 ml), 30% hydrogen peroxide water (0.15 g, 1.35 mmol) was added at room temperature. To the resulting mixture, a 28% aqueous solution of sodium hydroxide (0.12 g, 0.81 mmol) was added dropwise at the same temperature. Stirring was continued until the full consumption of the starting material was confirmed by HPLC. After the completion of the reaction, cool water (10 ml) was added to the reaction mixture. After washing with methylene chloride (5 ml), the pH of the mixture was adjusted to 2 with 35% hydrochloric acid. The crystals so precipitated were collected by filtration, washed with water and then dried, whereby 160 mg (β:α=96:4) of the colorless title compound was obtained (yield: 89%).

reactant | 3-{(2R)-2-[(3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl)propionyl}-(3aS-cis)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]oxazol-2-one | 308 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)N1C(O[C@H]2[C@@H]1C=1C=CC=CC1C2)=O)C)=O | C24H34N2O5Si
reactant | hydrogen peroxide water | 1.35 mmol, 0.15 g | O.OO
reactant | sodium hydroxide | 0.81 mmol, 0.12 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | methanol water | CO.O
product | (R)-2-[(3S,4S)-3-[(R)-1-tert-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionic acid | yield: 89% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)O)C)=O | C14H27NO4Si
